US07309701B2
Working as in example 2 for the preparation of N-(2,4-dichlorobenzyl)-3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxamide, but starting with 0.3 g of 3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxylic acid, 10 cm3 of dichloromethane, 0.02 cm3 of dimethylformamide, 0.12 cm3 of oxalyl chloride, 0.19 cm3 of 4-chlorobenzylamine and 0.19 cm3 of triethylamine, 0.2 g of N-(4-chlorobenzyl)-3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxamide was obtained in the form of a cream-colored solid melting at 250° C.

reactant | N-(2,4-dichlorobenzyl)-3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxamide | ClC1=C(CNC(=O)C=2C(NN=C(C2)C2=CC=NC=C2)=O)C=CC(=C1)Cl | C17H12Cl2N4O2
reactant | 3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxylic acid | 0.3 g | O=C1NN=C(C=C1C(=O)O)C1=CC=NC=C1 | C10H7N3O3
reactant | oxalyl chloride | 0.12 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-chlorobenzylamine | 0.19 cm3 | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | triethylamine | 0.19 cm3 | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 0.02 cm3 | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | N-(4-chlorobenzyl)-3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxamide | 0.2 g | ClC1=CC=C(CNC(=O)C=2C(NN=C(C2)C2=CC=NC=C2)=O)C=C1 | C17H13ClN4O2
